US07816371B2
b. (R)-2-(5-Amino-6-cyclopropyl-1-oxoisoquinolin-2(1H)-yl)propyl acetate
A round bottom flask was charged with (R)-2-(6-cyclopropyl-5-nitro-1-oxoisoquinolin-2(1H)-yl)propyl acetate (28 mg, 0.000085 mol), ethanol (10 mL, 0.2 mol) and palladium, 10% weight on charcoal (1.0 mg, 0.0000085 mol) was added and the flask was evacuated of any air and flushed with hydrogen two times and the reaction was stirred at room temperature under hydrogen (1 atm) for 2 hours. The reaction was filtered over celite and the solvent removed to obtain the product. MS m/z=301.2 (M+H).

reactant | (R)-2-(6-cyclopropyl-5-nitro-1-oxoisoquinolin-2(1H)-yl)propyl acetate | 0.000085 mol, 28 mg | C(C)(=O)OC[C@@H](C)N1C(C2=CC=C(C(=C2C=C1)[N+](=O)[O-])C1CC1)=O | C17H18N2O5
reactant | ethanol | 0.2 mol, 10 mL | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | (R)-2-(5-Amino-6-cyclopropyl-1-oxoisoquinolin-2(1H)-yl)propyl acetate | C(C)(=O)OC[C@@H](C)N1C(C2=CC=C(C(=C2C=C1)N)C1CC1)=O | C17H20N2O3
